US06599902B2
Synthesis of 3-[1-[3,5-Dimethyl-4-(2-morpholin-4-yl-2-oxo-ethyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one
A mixture of 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one (100 mg, 0.35 mmol), 3,5-dimethyl-4-(2-morpholin-4-yl-2-oxo-ethyl)-1H-pyrrole-2-carbaldehyde (166 mg, 0.68 mmol) and piperidine (0.5 eq.) in ethanol (2 mL) was stirred at rt for 48 hours. The reaction was concentrated and triturated with methanol to give the titled compound as a pale orange solid.

reactant | 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | 0.35 mmol, 100 mg | C1(=CC=CC=C1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H13NO3S
reactant | 3,5-dimethyl-4-(2-morpholin-4-yl-2-oxo-ethyl)-1H-pyrrole-2-carbaldehyde | 0.68 mmol, 166 mg | CC1=C(NC(=C1CC(=O)N1CCOCC1)C)C=O | C13H18N2O3
reactant | piperidine | 0.5 eq. | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[1-[3,5-Dimethyl-4-(2-morpholin-4-yl-2-oxo-ethyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | CC1=C(NC(=C1CC(=O)N1CCOCC1)C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=CC=CC=C1)=O | C28H29N3O5S
